data/oMe_Silver.jsonl
{"reaction_id": "NR-138_1-c1ccc(N(=O)=O)cc1_2-N(=O)=O_3-C_4-c1ccc(Cl)cc1_5-c1cnccc1_6-c1ccccc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)c1ccc(N(=O)=O)cc1)(N(=O)=O)(C)","C(=O)(c1ccc(Cl)cc1)(c1cnccc1)","Nc1ccccc1"],"products_smiles": ["C(C(=O)c1ccc(N(=O)=O)cc1)(N(=O)=O)(C)C(c1ccc(Cl)cc1)(c1cnccc1)Nc1ccccc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])c1ccc(N(=O)=O)cc1)(N(=O)=O)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(N(=O)=O)=C(O)c1ccc(N(=O)=O)cc1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])c1ccc(N(=O)=O)cc1)(N(=O)=O)(C)C(c1ccc(Cl)cc1)(c1cnccc1)Nc1ccccc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)c1ccc(N(=O)=O)cc1)(N(=O)=O)(C)C(c1ccc(Cl)cc1)(c1cnccc1)Nc1ccccc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
{"reaction_id": "NR-326_1-c1ccc(Cl)cc1_2-C","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)(=O)C(=[N+]=[N-])C"],"products_smiles": ["O=C=C(C)c1ccc(Cl)cc1"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(Cl)cc1)(=O)[C]C","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(C)c1ccc(Cl)cc1","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of c1ccc(Cl)cc1 to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
